US05198446
Preparation of N-{[dimethyl-(4-fluorobenzyl)silyl]methyl}imidazole hydrochloride
After dissolving 3.25 g of chloromethyl-dimethyl(4-fluorobenzyl)silane in 10 ml of xylene, 2.55 g of imidazole are added to the solution which is then refluxed for 12 hours. After adding 50 ml of water to the mixture and separating, the organic phase is washed with a total of 100 ml of water in 5 portions. The organic phase is dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated to solvent-free. The pale yellow oily residue is dissolved in 20 ml of ethyl acetate and gaseous hydrogen chloride is introduced to the solution until reaching a pH value of 4 to 5. The precipitated crystalline product name is filtered in two portions at 10° C. and washed with a total of 6 ml of ethyl acetate to give the named compound in a yield of 3.41 g (80%), m.p.: 152°-154° C.

reactant | chloromethyl-dimethyl(4-fluorobenzyl)silane | 3.25 g | ClC[Si](CC1=CC=C(C=C1)F)(C)C | C10H14ClFSi
reactant | imidazole | 2.55 g | N1C=NC=C1 | C3H4N2
reactant | water | 50 ml | O | H2O
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-{[dimethyl-(4-fluorobenzyl)silyl]methyl}imidazole hydrochloride | Cl.C[Si](CC1=CC=C(C=C1)F)(C)CN1C=NC=C1 | InChI=1S/C13H17FN2Si.ClH/c1-17(2,11-16-8-7-15-10-16)9-12-3-5-13(14)6-4-12;/h3-8,10H,9,11H2,1-2H3;1H
